US07071216B2
Synthesis of (4-{2-[(4-bromophenyl)amino]-benzothiazol-5-yloxy}(2-pyridyl))-N-methylcarboxamide
The mixture containing 2-[(4-bromophenyl)amino]benzothiazol-5-ol (1 eq), Potassiumbis(trimethylsilyl)amide (4 eq), was stirred in dimethylformamide for 30 min at room temperature. To this mixture was added (4-chloro(2-pyridyl)-N-methyl-carboxamide (1 eq) and Potassium carbonate (1.2 eq) and microwaved for 6 mins at 150° C. The reaction mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was separated and washed with brine, dried, filtered and concentrated. Purification on Prep LC yielded the desired product. MS: MH+=455

reactant | 2-[(4-bromophenyl)amino]benzothiazol-5-ol | 1 eq | BrC1=CC=C(C=C1)NC=1SC2=C(N1)C=C(C=C2)O | C13H9BrN2OS
reactant | Potassiumbis(trimethylsilyl)amide | 4 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-chloro(2-pyridyl)-N-methyl-carboxamide | 1 eq | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | Potassium carbonate | 1.2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (4-{2-[(4-bromophenyl)amino]-benzothiazol-5-yloxy}(2-pyridyl))-N-methylcarboxamide | BrC1=CC=C(C=C1)NC=1SC2=C(N1)C=C(C=C2)OC2=CC(=NC=C2)C(=O)NC | C20H15BrN4O2S
